US03957805
Preparation of 1-Cyclopropyl-3-(2-quinoxalinyl)-1,3-propanedione
A mixture of 3.0 g. of ethyl-2-quinoxalate, 1.7 g. of cyclopropylmethyl ketone and 0.9 g. of sodium methoxide in 100 ml. of benzene is heated under reflux for 4 hours. The mixture is diluted with 100 ml. of water and the benzene phase is separated. The aqueous solution is made weakly acidic with dilute hydrochloric acid and extracted with chloroform. The chloroform solution is dried over magnesium sulfate and concentrated under reduced pressure to yield straw-colored crystals, which are recrystallized from acetonitrile to provide cream-colored crystals, melting point 113°-115°C.

reactant | ethyl-2-quinoxalate | C(C)OC(=O)C1=NC2=CC=CC=C2N=C1 | C11H10N2O2
reactant | cyclopropylmethyl ketone | C1(CC1)C(=O)C | C5H8O
reactant | sodium methoxide | C[O-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-Cyclopropyl-3-(2-quinoxalinyl)-1,3-propanedione | C1(CC1)C(CC(=O)C1=NC2=CC=CC=C2N=C1)=O | C14H12N2O2
